US06573289B1
Production of 1-Cyclopentyl-1-(1H-imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)methanol
In a similar manner to that described in Example 1-(iv), the reaction of (1H-imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone (0.60 g) with cyclopentylmagnesium bromide in THF (1.0 M, 10 ml) was carried out to give the titled compound (0.80 g) as a colorless solid.

reactant | (1H-imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone | 0.60 g | N1C=NC(=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C15H12N2O2
reactant | cyclopentylmagnesium bromide | C1(CCCC1)[Mg]Br
solvent | THF | 1.0 M, 10 ml | C1CCOC1 | C4H8O
product | 1-Cyclopentyl-1-(1H-imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)methanol | 0.80 g | C1(CCCC1)C(O)(C1=CC2=CC=C(C=C2C=C1)OC)C=1N=CNC1 | C20H22N2O2
